US05512696
2,2'-Dihydroxyl-5,5'-dimethoxy-1,1'-biphenyl was prepared by the dealkylation of 2,2'-dihydroxy-3,3'-di-t-butyl-5,5'-dimethoxy-1,1'-biphenyl using a procedure described in the literature (Tashiro et al., Organic Preparations and Procedures Int., 8, 263, 1976). Ten grams of AlCl3 and 10 g of 2,2'-dihydroxy-3,3'-di-t-butyl-5,5'-dimethoxy-1,1'-biphenyl were mixed in 125 ml of benzene and heated at 40° C. for 3 hours. The mixture was cooled in ice, and 125 ml of 10% aqueous HCl was added slowly. The organic layer was separated and washed with three 125-ml portions of 10% NaOH. The basic solution was neutralized with concentrated HCl and extracted three times with 100 ml portions of ether. The ether layer was dried over Na2SO4. After filtering and removing the solvent by vacuum evaporation, the brown oil was washed with hexane; the product crystallized from CH2Cl2 /hexane, yielding 2.202 g of 2,2'-dihydroxy-5,5'-dimethyoxy-1,1'-biphenyl, which was obtained as a white solid. 1H (300 MHz, CD2Cl2): 6.9-6.8 (m, 6H), 5.71 (s, 2H), 3.78 (s, 6H).

reactant | 2,2'-dihydroxy-3,3'-di-t-butyl-5,5'-dimethoxy-1,1'-biphenyl | OC1=C(C=C(C=C1C(C)(C)C)OC)C1=C(C(=CC(=C1)OC)C(C)(C)C)O | C22H30O4
reactant | AlCl3 | Ten grams | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,2'-dihydroxy-3,3'-di-t-butyl-5,5'-dimethoxy-1,1'-biphenyl | 10 g | OC1=C(C=C(C=C1C(C)(C)C)OC)C1=C(C(=CC(=C1)OC)C(C)(C)C)O | C22H30O4
reactant | HCl | 125 ml | Cl | ClH
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 2,2'-dihydroxy-5,5'-dimethyoxy-1,1'-biphenyl | 2.202 g | OC1=C(C=C(C=C1)OC)C1=C(C=CC(=C1)OC)O | C14H14O4
